US05470878
A solution of 3-(5-hexenyl)-1-methylthymine (2.00 g, 9 mmol), 4-methylmorpholine-N-oxide (1.17 mg, 10 mmol), and osmium tetroxide (0.15 ml of a 2.5% solution in t-butanol) in acetone (15 ml) and water (10 ml) was stirred for 20 hours. Saturated aqueous sodium hydrosulfite solution (10 ml) was added and after 15 minutes of stirring, the mixture was extracted with 20% ethanol-dichloromethane (4×40 ml). The combined organic layers were dried over sodium sulfate and the solvents were evaporated under vacuum to give a solid residue. The solid was recrystallized (ethanol) to give 3-(5,6-dihydroxyhexyl)-1-methylthymine (2.00 g, 89% yield).

reactant | 3-(5-hexenyl)-1-methylthymine | 9 mmol, 2.00 g | C(CCCC=C)N1C(N(C=C(C1=O)C)C)=O | C12H18N2O2
reactant | 4-methylmorpholine-N-oxide | 10 mmol, 1.17 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 10 ml | O | H2O
reactant | sodium hydrosulfite | 10 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 3-(5,6-dihydroxyhexyl)-1-methylthymine | 2.00 g, 89% yield | OC(CCCCN1C(N(C=C(C1=O)C)C)=O)CO | C12H20N2O4
